US06884774B2
To a solution of tert-butyl 4-[4-(aminocarbonyl)phenyl]-1-piperidinecarboxylate (3.34 g) in DMF (18 ml) was dropwise added phosphoryloxychloride (3.07 ml) keeping under 10° C. with stirring and the mixture was stirred at ambient temperature for 10 minutes. The reaction mixture was poured into a mixture of saturated aqueous sodium carbonate (60 ml) and ice-water (250 ml) with stirring and extracted twice with a mixture of ethyl acetate (200 ml) and hexane (80 ml). The extract was washed twice with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (300 ml) eluting with a mixture of n-hexane and ethyl acetate (4:1 v/v). The fractions containing the desired compound were collected and evaporated under reduced pressure to give tert-butyl 4-(4-cyanophenyl)-1-piperidine carboxylate (3.13 g).

reactant | tert-butyl 4-[4-(aminocarbonyl)phenyl]-1-piperidinecarboxylate | 3.34 g | NC(=O)C1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N2O3
reactant | phosphoryloxychloride | 3.07 ml | P(=O)(OCl)(Cl)Cl | Cl3O2P
reactant | sodium carbonate | 60 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 18 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-(4-cyanophenyl)-1-piperidine carboxylate | 3.13 g | C(#N)C1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H22N2O2
